US04298529
7-Amino-3-hydroxycepham-4-carboxylic acid (1.09 g., purity 84.8%), trimethylsilylacetamide (5.3 g.), 2-methoxyimino-3,3-diethoxy-4-bromobutyric acid (syn isomer, 1.8 g.), phosphorus oxychloride (0.68 ml.), N,N-dimethylformamide (0.55 ml.) and methylene chloride (25 ml.) were treated in a similar manner to that of Example 25 (1) to give 7-(2-methoxyimino-3,3-diethoxy-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 1.1 g.).

reactant | 7-Amino-3-hydroxycepham-4-carboxylic acid | 1.09 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O | C7H10N2O4S
reactant | trimethylsilylacetamide | 5.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-methoxyimino-3,3-diethoxy-4-bromobutyric acid | 1.8 g | CON=C(C(=O)O)C(CBr)(OCC)OCC | C9H16BrNO5
reactant | phosphorus oxychloride | 0.68 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.55 ml | CN(C=O)C | C3H7NO
product | 7-(2-methoxyimino-3,3-diethoxy-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 1.1 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)(OCC)OCC | C16H24BrN3O8S
